US05877342
Preparation of 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoic acid
107 mg (3.5 mmol) of sodium hydride (80% in oil) and 5 ml of THF were introduced into a round-bottomed flask under a stream of nitrogen. 535 μl (3.5 mmol) of diethyl malonate were then added dropwise and the mixture was stirred until the evolution of gas had ceased. This solution was introduced dropwise into a mixture of 1.67 g (3.2 mmol) of allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoate, 40 ml of THF and 184 mg (0.18 mmol) of tetrakis(triphenylphosphine)palladium(0) and the mixture was stirred at room temperature for three hours. The reaction medium was poured into water and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and ethyl acetate (80/20). After evaporation of the solvents, 630 mg (41%) of 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoic acid, having a melting point of 189°-91° C., were recovered.

reactant | sodium hydride | 3.5 mmol, 107 mg | [H-].[Na+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | diethyl malonate | 3.5 mmol, 535 μl | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoate | 3.2 mmol, 1.67 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)NC3=CC=C(C(=O)OCC=C)C=C3)C=C2)OCOCCOC | C31H37NO6
reactant | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 mmol, 184 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)NC3=CC=C(C(=O)O)C=C3)C=C2)OCOCCOC | C28H33NO6
